US04992474
1,1-Dimethyl-5-(3-phenylpropoxy)-2-pentynamine
1,1-Dimethylpropargylamine (8.5 g) was added dropwise to a suspension of lithamide [from lithium (1.7 g)] in liquid ammonia (100 ml) at -33°. The mixture was stirred for 90 min and a solution of [3-(2-bromoethoxy)propyl]benzene (21.5 g) in ER (30 ml) was added dropwise. The suspension was stirred for 4 h and ammonia was allowed to evaporate overnight. The residue was treated with H2O (100 ml) and extracted with ER (3×100 ml). The dried extract was evaporated and the residue was distilled to give the title compound as a colourless oil (3.0 g) b.p. 160°-165°/0.2 mmHg. T.l.c. (ER) Rf 0.3.

reactant | 1,1-Dimethylpropargylamine | 8.5 g | CC(C)(C#C)N | C5H9N
reactant | lithamide | 1.7 g | [Li+].[NH2-]
reactant | [3-(2-bromoethoxy)propyl]benzene | 21.5 g | BrCCOCCCC1=CC=CC=C1 | C11H15BrO
solvent | ammonia | 100 ml | N | H3N
product | 1,1-Dimethyl-5-(3-phenylpropoxy)-2-pentynamine | 3.0 g | CC(C#CCCOCCCC1=CC=CC=C1)(N)C | C16H23NO
